US05719175
Sodium ethoxide (3.56 g, 50 mmol) was added to a solution containing 2,3-dichloromaleic hydride (5.56 g, 33.3 mmol) and methylamine hydrochloride (3.50 g, 55.0 mmol) in 40 mL of acetic acid. The mixture was stirred under a CaCl2 drying tube at 25° C. for 16 hours and then refluxed for 4 hours. The cooled mixture was poured into water (350 mL) and extracted with EtOAc (3×75 mL). The combined organic extracts were washed with 100 mL portions of saturated aqueous NaHCO3, water and brine and dried (MgSO4). The solvent was evaporated under reduced pressure. The residue was recrystallized from ethanol to give 3.82 g (64%) of 2,3-dichloro N-methylmaleimide as white crystals. Concentration of the mother liquor and chromatography of the residue by radial preparative layer chromatography (Chromatotron, Harrison Research), gave an additional 0.81 g of 2,3-dichloro N-methylmaleimide, raising the yield to 77%.

reactant | Sodium ethoxide | 50 mmol, 3.56 g | [O-]CC.[Na+]
reactant | 2,3-dichloromaleic hydride | 33.3 mmol, 5.56 g | Cl/C(/C=O)=C(/C=O)\Cl | C4H2Cl2O2
reactant | methylamine hydrochloride | 55.0 mmol, 3.50 g | Cl.CN
reactant | water | 350 mL | O | H2O
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 2,3-dichloro N-methylmaleimide | 3.82 g, 64% | ClC=1C(=O)N(C(C1Cl)=O)C | C5H3Cl2NO2
